US06284748B1
A mixture of 2-amino-4-chloro-6-neopentylpyrimidine (1 mmol), sodium acetate (14 mmol), acetic acid (86 mmol), and 4-chlorobenzene-diazonium hexafluorophosphate (1.15 mmol) in water was stirred at 25° C. for 12 h. Extraction and evaporation gave a yellow solid which was treated with zinc dust (10 mmol) and acetic acid (5.54 mmol) in EtOH-H2O at 80° C. for 1 h. Extraction and chromatography gave 4-chloro-2,5-diamino-6-neopentyl-pyrimidine as a yellow solid. TLC: Rf=0.25, 50% EtOAc-hexane.

reactant | 2-amino-4-chloro-6-neopentylpyrimidine | 1 mmol | NC1=NC(=CC(=N1)Cl)CC(C)(C)C | C9H14ClN3
reactant | sodium acetate | 14 mmol | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 86 mmol | C(C)(=O)O | C2H4O2
reactant | 4-chlorobenzene-diazonium hexafluorophosphate | 1.15 mmol | F[P-](F)(F)(F)(F)F.ClC1=CC=C(C=C1)[N+]#N
reactant | acetic acid | 5.54 mmol | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | EtOH-H2O | C(C)O.O
catalyst | zinc | 10 mmol | [Zn] | Zn
product | 4-chloro-2,5-diamino-6-neopentyl-pyrimidine | ClC1=NC(=NC(=C1N)CC(C)(C)C)N | C9H15ClN4
